US03968117
1,2,6-Trimethyl-4-(2-ethoxycarbonylmethylmercapto-5-nitrophenyl)-1,4-dihydropyridine-3,5-dicarboxylic acid dimethyl ester. ##SPC25##
A solution of 19.7 g of 1,2,6-trimethyl-(2-chloro-5-nitrophenyl)-1,4-dihydropyridine-3,5-dicarboxylic acid dimethyl ester (melting point 190°C) in 200 ml of alcohol is heated to reflux and 60 ml of a solution of 2.3 g of sodium in 100 ml of alcohol, together with 13.2 g of mercaptoacetic acid ethyl ester, are added thereto. The mixture is refluxed for 15 hours and thereafter filtered and evaporated. The precipitate obtained after adding a little ether is recrystallized from methanol to yield yellow crystals of melting point 118°C.

reactant | 1,2,6-trimethyl-(2-chloro-5-nitrophenyl)-1,4-dihydropyridine-3,5-dicarboxylic acid dimethyl ester | 19.7 g | COC(=O)C1=C(N(C(=C(C1C1=C(C=CC(=C1)[N+](=O)[O-])Cl)C(=O)OC)C)C)C | C18H19ClN2O6
reactant | sodium | 2.3 g | [Na] | Na
reactant | mercaptoacetic acid ethyl ester | 13.2 g | C(C)OC(CS)=O | C4H8O2S
solvent | ether | CCOCC | C4H10O
product | 1,2,6-Trimethyl-4-(2-ethoxycarbonylmethylmercapto-5-nitrophenyl)-1,4-dihydropyridine-3,5-dicarboxylic acid dimethyl ester | COC(=O)C1=C(N(C(=C(C1C1=C(C=CC(=C1)[N+](=O)[O-])SCC(=O)OCC)C(=O)OC)C)C)C | C22H26N2O8S
